Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
left eye vision loss
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a very pleasant ___ year old right handed man with no 
significant past medical history, who presents with acute 
monocular left vision loss in the setting of 2.5 weeks of L 
frontal headache.

At the beginning of ___, he reports that he started doing 
more strenuous exercise than his usual routine (which is rowing 
on the ergometer every other day) in order to start preparing 
for a half-marathon. He started exercising twice a day: 
weight-lifting in the morning, and ergometer in the afternoon. 
His weight-lifting usually consisted of back and arm exercises; 
specifically, front shoulder raises and lateral arm raises, 
using ___ lb weights in each hand. This was going well until 
___, when developed an insidious onset of bifrontal 
headache. The headache was intermittent, and ranged between ___ 
to a ___ at its worst. He noted that the headache was worst 
when he first woke up in the morning, and would gradually 
subside throughout the day. Also noted it became worse with 
weight-lifting but better with running. He took Tylenol for the 
headache, which would help alleviate the pain, but the headache 
would recur daily. The headache never woke him from sleep. No 
nausea/vomiting, photophobia or phonophobia.

After a week of this headache without improvement, he saw his 
PCP ___ ___, who thought it was mostly musculoskeletal and 
recommended stretching. Since then, he has been doing aggressive 
stretching (“overstretching”) of the neck muscles, which he has 
not done before. His headaches started to improve with these 
stretches, but he was still having them intermittently on the L 
frontal region of his head. One week prior to presentation (___) 
while stretching, he felt a “tearing” sensation on L side of his 
neck.

On the morning of presentation, he woke up in his usual state of 
health, and laid in bed comfortably checking email and sending 
text messages from ___ am. He was comfortable in bed, not 
straining his neck in any particular fashion. He was lying on 
his right side, looking at his phone. Around ___, he went into 
the shower without difficulty ambulating. Soon after his shower 
started, he noticed that a “curtain” started to ascend over his 
left eye, starting in the inferior nasal region and ascending to 
the superior temporal region of his field of vision, leading to 
complete loss of vision (seeing “white”). This happened over the 
course of several seconds. He thought he had something in his 
eye, but rubbing did not improve this. There were no issues with 
the right eye. He tried to close the right eye, and noticed that 
his vision completely disappeared when doing this.

He did not notice any weakness, sensory changes (the hot water 
felt the same throughout his body, for example). He stepped out 
of the shower, and called
his PCP, but it was closed. He Ubered to the clinic in person, 
and the doctor there called an ambulance. His left-sided vision 
loss persisted until he was lifted onto the stretcher, when all 
of a sudden, he noticed that vision was starting to return in 
his left eye. He noticed that his vision returned in the exact 
opposite fashion that his vision was lost: vision returned 
starting in the superior temporal region, and then to the 
inferior temporal region. 

He was brought to the ___ ED. There, he stated that his vision 
close to baseline, but still some loss of vision in the nasal 
visual field of his L eye. 

Denies blurry/double vision and loss of vision prior to this 
episode. Denies recent trauma. Denies dizziness/lightheadedness, 
LOC, vertigo, dysphagia, dysarthria/aphasia, weakness, sensory 
changes (including temperature sensitivity), easy 
bleeding/bruising. Denies fever/child, chest pain, SOB, n/v/d, 
abdominal pain, dysuria, hematuria.
 
Past Medical History:
PAST MEDICAL HISTORY:
-Does not carry a formal dx of connective tissue disorder, but, 
he did report that his brother told him he that he has blue 
sclera when he was younger, but that the cause of this was never 
determined. Also notes that he has dislocated both shoulders 
multiple times starting at age ___, when he jumped into a pool. 
Also notes that he is double-jointed, especially his thumbs and 
knees. 
-Right tinnitus since ___ (persistent until present; gradual 
onset, was occasionally “clubbing” and listening to loud music 
at that time, but underwent diagnostic work-up which was 
negative for everything)

PSH: None
MEDICATIONS: None 
ALLERGIES: None
 
Social History:
___
Family History:
-Father’s side of the family had MIs, including father (died of 
MI at age ___, uncle (___), uncle (___) 
-Cousin (paternal) w/ joint hypermobility (father’s brother’s 
daughter) 
-Has 1 brother and 1 sister who are healthy 

 
Physical Exam:
PHYSICAL EXAMINATION: 
Vitals: T: 98.0  HR: 56  BP: 114/67  RR: 18  SaO2: 93% RA ; Ht: 
5’5.5”
General: Awake, cooperative, NAD.
HEENT: blue sclera
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: normal S1/S2, no m/r/g, warm, well-perfused.
Abdomen: Soft, non-distended, non-tender
Extremities: No ___ edema. Hypermobile joints in b/l thumbs 
especially on left. Hyperexensible knees. 
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Able to name both high and low frequency objects.  Able to read 
without difficulty. No dysarthria. Able to follow both midline 
and appendicular commands. Able to register 3 objects and recall 
___ at 5 minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:

II: L eye: ___ R eye: ___. No visual field cuts.
III, IV, VI:  Pupils dilated iatrogenically. Very slight left 
ptosis. EOMI without nystagmus. Normal saccades. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.

  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS.
Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

 
Pertinent Results:
___ 09:30AM   ___ PTT-31.8 ___

___ 09:30AM   NEUTS-66.2 ___ MONOS-6.5 EOS-3.4 
BASOS-0.8 IM ___ AbsNeut-3.35 AbsLymp-1.16* AbsMono-0.33 
AbsEos-0.17 AbsBaso-0.04
___ 09:30AM   WBC-5.1 RBC-4.76 HGB-15.1 HCT-45.4 MCV-95 
MCH-31.7 MCHC-33.3 RDW-12.0 RDWSD-42.0
___ 09:30AM   CRP-0.6
___ 09:30AM   TSH-1.8
___ 09:30AM   TRIGLYCER-57 HDL CHOL-85 CHOL/HDL-2.4 
LDL(CALC)-107
___ 09:30AM   CHOLEST-203*
___ 09:30AM   GLUCOSE-108* UREA N-12 CREAT-0.8 SODIUM-141 
POTASSIUM-4.6 CHLORIDE-102 TOTAL CO2-26 ANION GAP-13
___ 09:40AM   %HbA1c-4.5 eAG-82
___ 01:33PM   AT III-128
___ 01:33PM   ___ PTT-29.5 ___
___ 07:45PM   ___ PTT-35.8 ___
 
Brief Hospital Course:
Mr. ___ is a ___ year old right handed man with no 
significant past medical history who presented acute monocular 
left vision loss in the setting of 2.5 weeks of headache and was 
found to have a large left internal carotid artery dissection 
and possible TIA. Presentation overall concerning for possibly 
underlying connective tissue disorder.

In the ED, patient had subjective "cloudiness" in left nasal 
visual field. He was seen by Ophthalmology and Neurology in the 
ED. His exam was notable for blue sclera, hypermobile joints, a 
high-arched palate, left eye ___, right eye 20 mmHg, left 15 
mmHg, left inferior nasal visual field cut, and left ptosis. His 
eyes were dilated and his indirect ophthalmoscope exam revealed 
a  flat, a very small whitish area between disc and macula, no 
blood, suggestive of ischemic and edematous area. 

CTA revealed a large left internal carotid artery dissection. He 
was started on heparin gtt and strict bedrest with flat HOB. 
MRI/MRA on hospital day 1 again showed left internal carotid 
artery dissection with corresponding large thrombus, 
questionable thrombus in the left ophthalmic artery, but showed 
no evidence of acute infarct. His circle of ___ showed a 
robust A-comm without a corresponding fetal PCA, though there is 
a small connection between the posterior circulation and the 
ICA. 

He was transitioned to warfarin and atorvastatin 20 mg on HOD 1. 
Also underwent TTE which was unremarkable. Rheumatology was 
consulted for possibility of connective tissue disorder given 
his physical stigmata of Eh___-___ syndrome or other CTD. 
They recommended outpatient work-up of this possibility.

On discharge, he had no further visual deficits and had returned 
to his baseline. He was able to walk steadily without dizziness, 
visual symptoms, or any neurological deficits. He was discharged 
on lovenox and warfarin. His INR was 1.4 on discharge with goal 
of ___. 

Overall, his presentation is most consistent with a TIA 
secondary to large internal artery dissection, possibly in the 
setting of underlying connective tissue disorder. He is at a 
very high risk of recurrent TIA or stroke, so will remain on 
anticoagulation for at least 3 months and was instructed to 
refrain from most physical activity, especially activities that 
might cause straining or decreased cardiac output.

=====================
TRANSITIONAL ISSUES:
=====================
[ ] Patient was started on warfarin while inpatient and 
discharged on lovenox for bridging; will require monitoring, 
target INR ___
[ ] Patient will require CTA before his neurology appointment
[ ] Patient should follow up with ___ Marfan Syndrome + related 
diseases clinic (___) regarding possible connective 
tissue disorder
[ ] Patient will require neuroophthalmology follow-up for 
finding of increased intraocular pressure
 

 
Medications on Admission:
None
 
Discharge Medications:
1.  Atorvastatin 20 mg PO QPM    
3.  Enoxaparin Sodium 70 mg SC Q12H  
4.  Warfarin 5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left internal carotid artery dissection
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of left eye vision loss. 
You were found to have a large LEFT INTERNAL CAROTID ARTERY 
DISSECTION, which is a partial tear in the wall of a blood 
vessel in your neck. It is not a full tear, so the vessel is 
still partially intact. Because of your dissection, a large 
blood clot formed under the tear in your vessel, and a small 
part of that blood clot probably traveled up to and blocked the 
artery in your left eye, which caused your vision loss. This 
episode is called a TRANSIENT ISCHEMIC ATTACK (TIA).

Thankfully, TIAs are temporary and usually do not lead to 
permanent symptoms; however, having a dissection greatly 
increases your risk of having a STROKE, which is a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is completely blocked by a clot and therefore causes 
irreversible damage to your brain. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms. You are at an especially 
high risk of stroke because of the large size of your dissection 
and associated blood clot.

In order to prevent another TIA or stroke in the future, we are 
changing your medications as follows:

- You are now taking COUMADIN (WARFARIN) 5 mg per day to thin 
your blood. It is very important that you continue to take this. 
Taking this medication requires frequent blood work to make sure 
that your blood is thin enough and your dose may need to be 
adjusted often, therefore seeing your PCP regularly is needed. 

-While the COUMADIN gets therapeutic you will be sent home on a 
bridging blood thinner called LOVENOX. You will take these 
injections twice per day while your Coumadin INR value will be 
monitored by your PCP. Once your INR gets to 2.0-3.0 range the 
lovenox can be stopped. 

- You are now taking ATORVASTATIN 20 MG ONCE DAILY AT NIGHT to 
keep your cholesterol low.

- Please continue to take laxative medications such as SENNA, 
COLACE, DOCUSATE, AND MIRALAX to prevent constipation and 
straining. It is important that you do not strain as this could 
further injure your blood vessel. 

During your hospitalization, we noticed multiple signs that you 
could have a CONNECTIVE TISSUE DISORDER, including:
- the white of your eyes are blue/gray
- you have hyperflexible joints
- you have a high-arched palate (roof of mouth).
Because of these findings, you will follow-up in the 
___ CARDIOVASCULAR GENETICS 
clinic to check for a genetic cause of these symptoms 
approximately 1 month after your discharge. You will need to 
call to schedule an appointment: ___.

Please follow-up with Neurology and your primary care physician. 
Before your Neurology appointment, you will need a CT ANGIOGRAM 
to check on the status of your dissection (ordered in outpatient 
system for early ___, please call to schedule this test if you 
do not hear from the radiology department ___. 

-You will also need to follow-up with the opthalmologists who 
examined you while you were in the ER as they noted some 
increased eye pressure which will need to be monitored. 

Between now and your Neurology appointments, PLEASE DO NOT DO 
ANY OF THE FOLLOWING: 

- Please do not row on the ergometer, lift weights, or do 
high-intensity cardio. Light jogging, elliptical, and stationary 
bike are okay. 
- Please do not to neck stretches or strain your neck.
- Please avoid activity that will cause you to strain, including 
lifting heavy objects (for example, a heavy suitcase when 
traveling)

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can occur, 
please pay attention to the sudden onset and persistence of 
these symptoms:

- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team 
 
Followup Instructions:
___